* source LAB1_PRELAB_CNL
D_D1         N00122 0 D1N4004 
R_R1         N00122 N00092  330 TC=0,0 
V_V1         N00092 0 {VDC}
V_V2         VS 0  AC 0
+SIN 0 10 60 0 0 0
R_R2         0 VO  1k TC=0,0 
D_D2         VS VO D1N4004 
C_C1         0 VO  10uF  TC=0,0 
.PARAM  vdc=0
