* source PRELAB
M_M1         N00529 N00097 VSS VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
M_M2         VSS N00097 N00097 VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
R_RL         N00529 VDD  {RL} TC=0,0 
R_Rref         N00097 VDD  1637 TC=0,0 
V_V1         VDD 0 5Vdc
V_V2         0 VSS 5Vdc
M_M3         N00751 N00747 N00747 VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
M_M4         VSS N00743 N00751 VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
M_M5         N00831 N00747 N00743 VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
M_M6         N00743 N00743 VSS VSS RIT4007N7  
+ L=10u  
+ W=170u      
+ NRD=0.1  
+ NRS=0.1   
R_Rref1         N00747 VDD  3275 TC=0,0 
R_RL1         N00831 VDD  {RL} TC=0,0 
.PARAM  rl=100
